US04241074
Methane sulphonylchloride (8.07 g; 1.1 eq) was added dropwise over 30 minutes to a stirred solution of 9-hydroxy-non-7-en-2-one (10 g) in dry dichloromethane (60 ml) containing an excess of triethylamine (9.71 g; 1.5 eq), at -10° C. The solution was stirred for a further 20 minutes. The reaction mixture was washed with cold water, cold 5 N hydrochloric acid, cold 5% sodium bicarbonate solution and cold brine then was dried and evaporated in vacuo at <30° to give 9-mesyloxy-non-7-en-2-one (12.7 g) as a deep red oil.

reactant | Methane sulphonylchloride | 8.07 g, 1.1 eq | CS(=O)(=O)Cl | CH3ClO2S
reactant | 9-hydroxy-non-7-en-2-one | 10 g | OCC=CCCCCC(C)=O | C9H16O2
reactant | triethylamine | 9.71 g, 1.5 eq | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
product | 9-mesyloxy-non-7-en-2-one | 12.7 g | S(=O)(=O)(C)OCC=CCCCCC(C)=O | C10H18O4S
